US07687495B2
{(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-2-yl}-methanol
To a stirred solution of 0.10 g of (2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-2-carboxylic acid ethyl ester in 10 ml of tetrahydrofuran are added 17.0 mg of lithium aluminium hydride at 0° C. The reaction mixture is stirred for 1 hour at this temperature, diluted with tert-butyl methyl ether and quenched by addition of 2.0 ml of aqueous saturated sodium sulfate solution. The mixture is allowed to warm to room temperature, filtered and dried over sodium sulfate. The solvent is concentrated under reduced pressure and the residue is purified by flash chromatography (SiO2 60 F) to afford the title compound.

reactant | (2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-2-carboxylic acid ethyl ester | 0.10 g | C(C)OC(=O)[C@H]1NC[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C28H38N2O6
reactant | lithium aluminium hydride | 17.0 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | {(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-2-yl}-methanol | COC1=CC=C(C=C1)[C@H]1C[C@H](NC[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)CO | C26H36N2O5
